US07989461B2
Preparation of 6-(3-amino-1,6-dimethyl-1H-indazol-7-yl)-N-methylquinazolin-2-amine
A mixture of 7-iodo-1,6-dimethyl-1H-indazol-3-amine (266 mg, 927 μmol), N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine (317 mg, 1112 μmol), sodium carbonate (2 M aqueous) (927 μl, 1853 μmol) and tetrakis(triphenylphosphine)palladium (0) (54 mg, 46 μmol) in dioxane (4 mL) was purged with nitrogen in a sealed microwave vial. The mixture was heated in a microwave reactor at 150° C. for 33 min. Solvent was removed in vacuo and the residue was purified by flash chromatography (1-5% MeOH/DCM) to give the title compound (230 mg, 78%). MS (M+H)+ 319.

reactant | 7-iodo-1,6-dimethyl-1H-indazol-3-amine | 927 μmol, 266 mg | IC=1C(=CC=C2C(=NN(C12)C)N)C | C9H10IN3
reactant | N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine | 1112 μmol, 317 mg | CNC1=NC2=CC=C(C=C2C=N1)B1OC(C(O1)(C)C)(C)C | C15H20BN3O2
reactant | sodium carbonate | 1853 μmol, 2 M, 927 μl | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 46 μmol, 54 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(3-amino-1,6-dimethyl-1H-indazol-7-yl)-N-methylquinazolin-2-amine | 230 mg, 78% | NC1=NN(C2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC)C | C18H18N6
